US07211672B2
(±)-Cis-3-ethyl-1-[1-(3-methoxy-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl]-1-phenyl-urea was synthesized using general procedure A, substituting ethyl isocyanate for acetyl chloride using the following procedure. To a solution of (±)-cis-(3-methoxy-phenyl)-(2-methyl-4-anilino-3,4-dihydro-2H-quinolin-1-yl)-methanone in DMF was added ethyl isocyanate and reaction mixture was heated to 90° C. for 18 hours. The reaction was cooled to room temperature and concentrated. Crude mixture was purified by flash chromatography on silica gel using gradient elution hexane-ethyl acetate (5–20%).

reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
reactant | (±)-cis-(3-methoxy-phenyl)-(2-methyl-4-anilino-3,4-dihydro-2H-quinolin-1-yl)-methanone | COC=1C=C(C=CC1)C(=O)N1[C@H](C[C@H](C2=CC=CC=C12)NC1=CC=CC=C1)C | C24H24N2O2
reactant | ethyl isocyanate | C(C)N=C=O | C3H5NO
solvent | DMF | CN(C)C=O | C3H7NO
product | (±)-Cis-3-ethyl-1-[1-(3-methoxy-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl]-1-phenyl-urea | C(C)NC(N(C1=CC=CC=C1)[C@@H]1C[C@@H](N(C2=CC=CC=C12)C(C1=CC(=CC=C1)OC)=O)C)=O | C27H29N3O3
